US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide is alkylated using 3-bromo-propyne and K2CO3. After aqueous work-up the crude material (5.11 g) is de-acetylated in MeOH (180 ml) using DBU (1,3 ml) at reflux. After aqueous work-up 5-amino-3,3-dimethyl-6-nitro-1-prop-2-ynyl-1,3-dihydro-indol-2-one (4.32 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 3-bromo-propyne | BrCC#C | C3H3Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DBU | 1,3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeOH | 180 ml | CO | CH4O
product | 5-amino-3,3-dimethyl-6-nitro-1-prop-2-ynyl-1,3-dihydro-indol-2-one | 4.32 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC#C)=O)(C)C | C13H13N3O3
